### PR TITLE
Add JSON interface for Lean code

### PR DESCRIPTION
**Pull request by khieta**
*Issue #, if available:*

*Description of changes:*

This PR adds the interface for differential testing: in particular, it defines `isAuthorizedDRT` and `validateDRT` which use JSON input/output. It also adds a simple command line interface for testing and a couple example inputs generated from our `cedar` integration tests. This code was split out from PR #158 to make the final PR more manageable.

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: cedar-lean/Cedar/Thm/Soundness.lean [hunk 1]
```diff
@@ -46,50 +46,20 @@ theorem typecheck_policy_is_sound (policy : Policy) (env : Environment) (t : Ced
...
-            apply instance_of_type_bool_is_bool
-            apply h₄
-            apply h₃
-          cases h₅ with
-          | intro b h₅ =>
-            unfold EvaluatesToBool
-            exists b
-            rewrite [← h₅]
-            apply h₁
+  sorry
```
Comment (shaobo-he-aws) [inline cedar-lean/Cedar/Thm/Soundness.lean:49]: Is it Ok to have sorry here?

**Review by shaobo-he-aws — APPROVED** [review]

File: cedar-lean/Cedar/Thm/Soundness.lean (hunk 1 above)
Comment (khieta) [reply cedar-lean/Cedar/Thm/Soundness.lean]: Yep, the soundness proofs are currently incomplete on the `main` branch. Proof work is primarily being done in the `lean-soundness-proof` branch.

**Review by shaobo-he-aws — APPROVED** [review]

**Review by andrewmwells-amazon — APPROVED** [review]

**Comment by andrewmwells-amazon** [comment]
LGTM

**Review by aaronjeline — APPROVED** [review]
